US06248306B1
a) 3-(4-Isothiocyanatophenyl)-glutaric acid
11.5 g (100 mmol) of thiophosgene is added to 22.12 g (100 mmol) of 3-(4-aminophenyl)-glutaric acid in 300 ml chloroform and heated for 50 minutes at 40° C. It is evaporated to dryness and the residue is crystallized from a little isopropanol/ether.

reactant | thiophosgene | 100 mmol, 11.5 g | C(=S)(Cl)Cl | CCl2S
reactant | 3-(4-aminophenyl)-glutaric acid | 100 mmol, 22.12 g | NC1=CC=C(C=C1)C(CC(=O)O)CC(=O)O | C11H13NO4
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(4-Isothiocyanatophenyl)-glutaric acid | N(=C=S)C1=CC=C(C=C1)C(CC(=O)O)CC(=O)O | C12H11NO4S
